US07951950B2
4-(4-Methoxycarbonyl-4-methyl-pent-1-enyl)-benzoic acid (900 mg, 3.4 mmol, 1 eq.) was dissolved in ethanol (13 ml) and triethylamine (568 μl, 4.1 mmol, 1.2 eq.) and palladium on carbon (90 mg, 10% Pd/C) were then added. The mixture was stirred under hydrogen atmosphere for 20 h. Reaction mixture was filtered over celite and washed with ethanol. The filtrate was evaporated to yield a yellow oil. This oil was dissolved in ethyl acetate and washed with a 1N aqueous hydrochloric acid solution. The aqueous layer was removed and the organic layer was washed with water, and brine, then dried over magnesium sulfate, filtered and concentrated to give 4-(4-methoxycarbonyl-4-methyl-pentyl)-benzoic acid (763 mg, 85%).

reactant | 4-(4-Methoxycarbonyl-4-methyl-pent-1-enyl)-benzoic acid | 3.4 mmol, 900 mg, 1 eq. | COC(=O)C(CC=CC1=CC=C(C(=O)O)C=C1)(C)C | C15H18O4
reactant | triethylamine | 4.1 mmol, 568 μl, 1.2 eq. | C(C)N(CC)CC | C6H15N
solvent | ethanol | 13 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 90 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-methoxycarbonyl-4-methyl-pentyl)-benzoic acid | 763 mg, 85% | COC(=O)C(CCCC1=CC=C(C(=O)O)C=C1)(C)C | C15H20O4
